* source CONTROL_VENTANA-LLUVIA
V_V1         N00104 0 5Vdc
X_U1         N00428 0 N00112 N00213 N00104 Relay_Spdt_Phy PARAMS:
+ R_coil=10
+ L_coil=5mH
+ R_open=100MEG
+ R_close=.05
+ turns=100
+ arm_mass=0.5
+ spr=40
+ minp=1
+ maxp=5
+ drag=1
+ lim_k=1e6
+ damping=1e3
R_R1         N00112 0  1k TC=0,0 
R_R2         N00213 0  1k TC=0,0 
X_U4         0 N00428 Sw_tOpen PARAMS: tOpen=0.005 ttran=1u Rclosed=0.01
+  Ropen=1Meg
